US07745475B2
1,2,4-Trifluoro-5-(methylsulfonyl)benzene
2,4,5-Trifluorophenyl sulfonyl chloride (279 mg) was added to a solution of sodium sulfite (306 mg) and sodium bicarbonate (153 mg) in water (4 mL). The mixture was heated to 150° C. in a sealed microwave vial for 400 seconds and allowed to cool. The mixture was treated with bromoacetic acid (253 mg) in water (1 mL), and heated to 150° C. for 300 seconds then allowed to cool, following which the precipitate was removed by filtration and dried in vacuo to give the desired compound (169 mg). The material was used without further purification. 1H NMR δ (d6-DMSO): 3.35 (s, 3H), 7.87-8.01 (m, 2H).

reactant | 2,4,5-Trifluorophenyl sulfonyl chloride | 279 mg | FC1=C(C=C(C(=C1)F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | sodium sulfite | 306 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 153 mg | C([O-])(O)=O.[Na+]
reactant | bromoacetic acid | 253 mg | BrCC(=O)O | C2H3BrO2
solvent | water | 4 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 1,2,4-Trifluoro-5-(methylsulfonyl)benzene | 169 mg | FC1=C(C=C(C(=C1)S(=O)(=O)C)F)F | C7H5F3O2S
